US08530504B2
2-Methoxypropyl 4-methylbenzenesulfonate
To dichloromethane (30 mL) mixture of 2-methoxypropan-1-ol (1.6 g, 17.8 mmol) and pyridine (20.0 mL), was added p-toluenesulfonyl chloride (4.07 g, 21.4 mmol) while stirring on ice, and the mixture was stirred at room temperature for five hours. To the mixture, were added water and ethyl acetate. After thoroughly shaking the mixture, the organic layer was separated, and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The mixture was filtered, and the solvent in the filtrate was then distilled off under reduced pressure. The residue was purified by silica gel column chromatography (a mixed solvent of n-heptane and ethyl acetate: n-heptane/ethyl acetate=2/1) to obtain the title compound (3.12 g, 12.8 mmol).

reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | 2-methoxypropan-1-ol | 17.8 mmol, 1.6 g | COC(CO)C | C4H10O2
reactant | pyridine | 20.0 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 21.4 mmol, 4.07 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Methoxypropyl 4-methylbenzenesulfonate | 12.8 mmol, 3.12 g | CC1=CC=C(C=C1)S(=O)(=O)OCC(C)OC | C11H16O4S
